US04110450
A 40% aqueous dimethylamine solution (2000 cc) is added to 4-carboxy-6-chloropyrimidine (93.6 g). The mixture is allowed to stand for 3 days and then concentrated to dryness under reduced pressure. The residue is dissolved in water (300 cc). The solution is made alkaline by the addition of sodium bicarbonate powder to a pH of 8 to 9. The solution is then extracted with diisopropyl ether (1000 cc). The aqueous phase is acidified with 12N hydrochloric acid to a pH of 2 to 3. The precipitate is filtered off, washed with ice-water (30 cc) and then with isopropanol (120 cc). 4-Carboxy-6-dimethylaminopyrimidine (73.6 g), melting at 250° C, is obtained.

reactant | 4-carboxy-6-chloropyrimidine | 93.6 g | C(=O)(O)C1=NC=NC(=C1)Cl | C5H3ClN2O2
reactant | dimethylamine | 2000 cc | CNC | C2H7N
product | 4-Carboxy-6-dimethylaminopyrimidine | 73.6 g | C(=O)(O)C1=NC=NC(=C1)N(C)C | C7H9N3O2
